US20010037011A1
Methyl N-(1-oxo-3-phenylpropyl)-3-aminobutanoate
A mixture of 3-phenylpropanoic acid (1 mole) and methyl 3-aminobate tartrate salt (1 mole) in THF (500 mL) and water (500 mL) is stirred at room temperature and then treated with Ba(OH)2 (1-1.1 mole) [a slight excess of Ba(OH)2 may be needed to maintain the pH between 7-10; a white precipitate of Ba-tartrate is formed immediately following the addition of Ba(OH)2]. The reaction mixture is cooled to 0-10° C. and treated with HOBT (0.1-0.5 mole) and DCC (1 mole) in THF (500 mL). The reaction mixture is stirred at room temperature until analysis indicates that the reaction is complete. The reaction mixture is cooled to 0-5° C. and treated with ethyl acetate (500-800 mL). The resulting mixture is filtered to remove the precipitate and results in a biphasic filtrate. The top organic layer is separated and washed with 5% aqueous Na2CO3 solution and then dried with MgSO4. The solvent is evaporated to yield the crude product, which is purified as desired.

reactant | HOBT | 0.1-0.5 mole | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DCC | 1 mole | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | ethyl acetate | 500-800 mL | C(C)(=O)OCC | C4H8O2
reactant | THF | 500 mL | C1CCOC1 | C4H8O
product | Methyl N-(1-oxo-3-phenylpropyl)-3-aminobutanoate | O=C(CCC1=CC=CC=C1)NC(CC(=O)OC)C | C14H19NO3
